US09260363B2
Synthesis of 1-bromo-6-(naphthalen-1-yl)pyrene
A mixture of 27.2 g (75.6 mmol) of 1,6-dibromopyrene, 13 g (75.6 mmol) of naphthalen-1-ylboronic acid, 0.87 g(0.756 mmol) of Tetrakis(triphenylphosphine)Palladium, 57 ml of 2M Na2CO3, 120 ml of EtOH and 300 ml toluene was degassed and placed under nitrogen, and then heated at 90° C. for 24 h. After the reaction finish, the mixture was allowed to cool to room temperature. Than 500 ml MeOH was added, while stirring and the precipitated product was filtered off with suction. To give 14 g (yield 45.5%) of beige product which was recrystallized from 1,4-Dioxane.

reactant | 1,6-dibromopyrene | 75.6 mmol, 27.2 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)Br | C16H8Br2
reactant | naphthalen-1-ylboronic acid | 75.6 mmol, 13 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | Na2CO3 | 2M, 57 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 120 ml | CCO | C2H6O
catalyst | Tetrakis(triphenylphosphine)Palladium | 0.756 mmol, 0.87 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1-bromo-6-(naphthalen-1-yl)pyrene | 14 g, yield 45.5% | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=CC4=CC=CC=C34 | C26H15Br
